US08071588B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]butanediamide
In an alternate preparation of the above titled compound previously described in Examples 135 and 143, N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]butanediamide (36.9 mg. 0.06 mmol) was diluted in DMSO (1.5 mL) and dispensed into a 1 dram vial containing 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (0.18 mmol) and acetic acid (3.6 mg, 0.6 mmol) and fitted with a magnetic stir bar. The resulting solution was stirred at room temperature for 4 h. MP-B(OAc)3H (0.6 mmol, 140 mg) was added and the solution was stirred for another 12 h. The polymer reagent was filtered off and to the filtrate were added MeOH (2.0 mL) and 1 drop of concentrated HCl. This solution was heated at 60 C. ° for 12 h. Purification was completed via reverse phase HPLC using a Gilson (acidic conditions with 0.1% TFA in the solvents). The product after HPLC purification was dissolved in 3 mL of MeOH and passed through a 0.5 g amine column (washed with 8 mL of MeOH) to afford 16.3 mg of the title compound (38.9%). LC-MS m/z 700 (M+H)+, 0.66 min (ret time).

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]butanediamide | 0.06 mmol, 36.9 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)C=O)=O)CC | C34H39FN6O4
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 0.18 mmol | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | acetic acid | 0.6 mmol, 3.6 mg | C(C)(=O)O | C2H4O2
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]butanediamide | 16.3 mg, 38.9% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)=O)CC | C39H51FN8O3
